US08030334B2
To a suspension of 4-bromophenylhydrazine hydrochloride (10.00 g, 42.95 mmol) in anhydrous ethanol (200 mL) is added 3-propionylpyridine (7.51 g, 42.95 mmol) and the mixture is stirred at reflux for 30 min. 4M HCl in 1,4-dioxane (42.9 mL) is added to the yellow solution and stirring is continued at reflux overnight. The reaction mixture is cooled with an ice-water bath and the yellow precipitate is filtered through a sintered funnel to give 5-bromo-3-methyl-2-pyridin-3-yl-1H-indole hydrochloride as a yellow solid. The product is dissolved in methanol (100 mL) and treated with sodium methoxide to give the free base, which is used in the next step without further purification.

reactant | 4-bromophenylhydrazine hydrochloride | 42.95 mmol, 10.00 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 3-propionylpyridine | 42.95 mmol, 7.51 g | C(CC)(=O)C=1C=NC=CC1 | C8H9NO
reactant | HCl | 4M | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 42.9 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-3-methyl-2-pyridin-3-yl-1H-indole hydrochloride | Cl.BrC=1C=C2C(=C(NC2=CC1)C=1C=NC=CC1)C | InChI=1S/C14H11BrN2.ClH/c1-9-12-7-11(15)4-5-13(12)17-14(9)10-3-2-6-16-8-10;/h2-8,17H,1H3;1H
